spice
* SPICE Netlist for the given circuit

* Voltage Sources
Vplus 6 0 DC 2.5V
Vminus 4 0 DC -2.5V

* Resistors
R1 7 3 1k  ; assuming resistance value
R2 3 5 1k  ; assuming resistance value
RS 6 2 1k  ; assuming resistance value
RD 5 2 1k  ; assuming resistance value

* Voltage symbol
VG 3 0 DC 0V ; reference voltage

.END